US06518423B1
Ethyl(11-hydroxy-9-methyl-9-azabicyclo[5.3.1]undec-11-yl)acetate
A solution of 2.1 g of ethyl ethynyl ether (a 50% hexane solution) in dry diethyl ether (25 ml) was cooled in a nitrogen atmosphere to −78° C. After dropping 6 ml of a 2.5 M solution of n-butyllithium in hexane, the resulting mixture was stirred for 10 minutes. Next, 10 ml of a solution of 78 g of 3-methyl-3-azabicyclo[5.3.1]undecan-11-one in dry diethyl ether (10 ml) was dropped into the reaction mixture. After stirring for 15 minutes, the mixture was brought back to room temperature and then distributed into an aqueous solution of ammonium chloride and ethyl acetate. The organic layer was extracted and dried over anhydrous sodium sulfate. After distilling off the solvent, an oily component was obtained. Then 100 ml of tetrahydrofuran was added thereto and the resulting mixture was stirred. After dropping 10 mmol of conc. sulfuric acid thereinto, the reaction mixture was distributed into an aqueous solution of sodium bicarbonate and ethyl acetate and the organic layer was extracted. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with ethyl acetate/n-hexane) to thereby give 1.29 g of the title compound as a colorless oily substance.

reactant | ethyl ethynyl ether | 2.1 g | C(#C)OCC | C4H6O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-methyl-3-azabicyclo[5.3.1]undecan-11-one | 78 g | CN1CC2CCCC(CCC1)C2=O | C11H19NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sulfuric acid | 10 mmol | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl(11-hydroxy-9-methyl-9-azabicyclo[5.3.1]undec-11-yl)acetate | 1.29 g | C(C)OC(CC1(C2CCCCCC1CN(C2)C)O)=O | C15H27NO3
